US08133995B2
Step 2: Preparation of (2-Cyano-pyrrol-1-yl)-carbamic acid, tert-butyl ester
A 2 L, 3-neck RB was fitted w/ stir bar, N2 inlet, rubber septum low-temp, thermometer and ice/acetone cooling bath. Pyrrol-1-yl-carbamic acid tert-butyl ester (99.0 g, 0.543 mol) was added to the reactor, dissolved w/ anhydrous acetonitrile (700 mL) and the stirred solution was cooled to 0° C. Chlorosulfonyl isocyanate (49.7 mL, 0.57 mol) was added dropwise via syringe (maintaining an internal temp, below 5° C.); after ˜20 minutes a suspension was observed. After 45 minutes N,N-dimethylformamide (anhydrous, 100 mL) was added dropwise via addition funnel (keeping internal temp, below 5° C.) and the reaction mixture became a solution. Stirring @ 0° C. was continued for 45 minutes, then the reaction was allowed to warm to RT; monitoring by TLC (silica gel, 1:3 ethyl acetate/hexane, UV, ninhydrin stain) of a quenched sample indicated that the reaction had progressed to completion. The mixture was poured onto ice (˜2 L) and stirred with addition of EtOAc (2 L). The layers were separated and the organic layer was dried over magnesium sulfate. The dried solution was filtered through a pad of 30/40 Magnesol and the filtrate was concentrated to dryness in vacuo, then the residue was dissolved in a minimum volume of dichloromethane and chromatographed on a plug of silica gel, eluting with ethyl acetate/hexane, 0-50% ethyl acetate. The clean, product-containing fractions were combined and concentrated to dryness in vacuo, to afford the desired product as a white solid, 69.8 g (62%). A somewhat impure fraction provided additional material, 16.8 g (15%), bringing the total recovery to 86.6 g, (77%). 1H-NMR (CD3OD): δ 7.01 (dd, 1H, J=3.0, 1.6 Hz), 6.82 (dd, 1H, J=4.4, 1.7 Hz), 6.19 (dd, 1H, J=4.2, 2.9 Hz), 4.88 (s, 1H, H2O+NH—), 1.50 (br s, 9H, HN—BOC); MS: LC/MS (+esi), m/z=207.9 [M+H].

reactant | Pyrrol-1-yl-carbamic acid tert-butyl ester | 0.543 mol, 99.0 g | C(C)(C)(C)OC(NN1C=CC=C1)=O | C9H14N2O2
reactant | acetonitrile | 700 mL | C(C)#N | C2H3N
reactant | Chlorosulfonyl isocyanate | 0.57 mol, 49.7 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | EtOAc | 2 L | CCOC(=O)C | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | (2-Cyano-pyrrol-1-yl)-carbamic acid, tert-butyl ester | C(#N)C=1N(C=CC1)NC(OC(C)(C)C)=O | C10H13N3O2
